US07423030B2
28.2. 4-Cyclopropylmethyl-7-methoxy-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 2-(2-cyclopropylacetyl)-5-methoxybenzoic acid with hydrazine hydrate.

reactant | 2-(2-cyclopropylacetyl)-5-methoxybenzoic acid | C1(CC1)CC(=O)C1=C(C(=O)O)C=C(C=C1)OC | C13H14O4
reactant | hydrazine hydrate | O.NN
product | 4-Cyclopropylmethyl-7-methoxy-2H-phthalazin-1-one | C1(CC1)CC1=NNC(C2=CC(=CC=C12)OC)=O | C13H14N2O2
